2161-11-29 07:25:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Dysynchronous with [**Last Name (LF) **], [**First Name3 (LF) **] needed to increase sedation
   FIO2 weaned to 40%, PEEP at 12
   Seen by renal who recommended holding tacrolius, no need for urgent
   dialysis
   Cr rose to 5.5 <--4.9 <-- 4.5, low urine output (3o cc over 6 hours)
   Bronch consistent with pulmonary edema
   Sputum culture - gram stain negative
   Levophed at 0.18
   History obtained from Family / [**Hospital 56**] Medical records
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2161-11-28**] 02:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-29**] 12:21 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-11-28**] 08:00 PM
   Dextrose 50% - [**2161-11-28**] 09:47 PM
   Heparin Sodium (Prophylaxis) - [**2161-11-29**] 12:20 AM
   Other medications:
   Sirolimus 8 mg daily
   Fentanyl/versed drips
   Albuterol
   Levophed
   Pantoprazole
   Pravastatin
   Hydrocortisone 50 q 6
   Paricalcitol
   Epo
   Levofloxacin
   Zosyn 2.25 q 8 hours
   Vanco by level
   Insulin drip
   Senna
   Colace
   Bisacodyl
   Chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-29**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.5
C (99.5
   HR: 82 (77 - 93) bpm
   BP: 125/70(88) {79/40(54) - 133/70(89)} mmHg
   RR: 24 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 52.1 kg
   Height: 62 Inch
    CVP: 7 (5 - 18)mmHg
   Total In:
                                                                  3,103 mL
                                                                    782 mL
   PO:
   TF:
   IVF:
                                                                  1,308 mL
                                                                    542 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    239 mL
   Urine:
                                                                    220 mL
                                                                     39 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,883 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/35/160/18/-5
   Ve: 8.6 L/min
   PaO2 / FiO2: 400
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   285 K/uL
   8.1 g/dL
   145 mg/dL
   5.5 mg/dL
   18 mEq/L
   5.2 mEq/L
   85 mg/dL
   107 mEq/L
   137 mEq/L
   24.3 %
   7.1 K/uL
        [image002.jpg]
                            [**2161-11-28**]  02:13 PM
                            [**2161-11-28**]  02:49 PM
                            [**2161-11-28**]  04:40 PM
                            [**2161-11-28**]  08:24 PM
                            [**2161-11-28**]  11:01 PM
                            [**2161-11-28**]  11:12 PM
                            [**2161-11-29**]  02:06 AM
                            [**2161-11-29**]  03:51 AM
                            [**2161-11-29**]  04:13 AM
   WBC
   2.4
   3.7
   7.1
   Hct
   25.3
   23.1
   24.3
   Plt
   259
   246
   285
   Cr
   4.5
   4.9
   5.5
   TropT
   0.06
   TCO2
   22
   24
   21
   21
   20
   20
   Glucose
   145
   118
   145
   Other labs: PT / PTT / INR:14.7/35.7/1.3, CK / CKMB /
   Troponin-T:336/4/0.06, ALT / AST:20/34, Alk Phos / T Bili:36/0.4,
   Amylase / Lipase:/18, Differential-Neuts:76.8 %, Lymph:18.2 %, Mono:2.6
   %, Eos:2.0 %, Fibrinogen:294 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:3.1
   g/dL, LDH:255 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Ms.  [**Known lastname 6610**] is a 52 year old female with Type 1 DM, ESRD s/p failed
   transplant, admitted with respiratory failure secondary to CHF versus
   pneumonia (?aspiration).
   .
   1.  Respiratory failure.  Etiology of respiratory failure is unclear,
   but differential includes pneumonia (?aspiration event with
   nausea/vomiting), flash pulmonary edema in setting of hypertension,
   ARDS, pneumonitis. Rapid resolution of infiltrate on CXR is highly
   suggestive of aspiration pneumonitis.  Patient's acute onset of
   symptoms, hypertension, blood tinged hemoptysis and ET suctioning, BNP
   of 20,000 c/w pulmonary edema.  However, patient is febrile, on
   immumnosuppressants and has unilateral infiltrate on CXR suggestive of
   an infectious process ( negative sputum gram stain though).  Therefore,
   will cover with broad antibiotic coverage.  Appearance of secretions
   during bronch were consistent with CHF.  With increased sedation
   overnight, patient was able to be weaned significantly from FIO2 of 80
   down to 40, PEEP remains at 12.
   - Vanco/Zosyn/Levaquin for pneumonia (vanco requires dosing by level
   due to impaired renal function, oliguria)
   - CMV viral load
   - rapid respiratory viral panel
   - renal consult for eval of HD for fluid removal
   - send sputum culture
   - r/o PCP given patient is on immunosuppressants, though only on 5 mg
   of prednisone daily
   - f/u blood cultures
   - follow WBC, fever curve
   - follow CVPs and gentle bolus fluids to keep CVP 8-12
   - wean FIO2, PEEP as tolerated
   - check glucan, galactomannan
   - aggressive sedation to keep patient comfortable and not dysyncrhonous
   with [**Known lastname **]
   .
   2.  Hypotension.  Patient has ESRD and is hypertensive at baseline (on
   toprol 200 mg and nifedipine 90 daily at home).  In ED, patient was
   hypertensive and given concern for flash pulmonary edema, will try to
   maintain SBP < 110.  However, patient became hypotensive in setting of
   increasing sedation and fever, concerning for med effect versus septic
   shock.
   - levophed drip to maintain MAPs > 60, consider dopamine if a second
   pressor needs to be added
   - consider labetolol drip if hypertensive off pressors again
   - small fluid boluses if needed due to worsening renal failure and high
   Fio2
   .
   4.  ESRD s/p renal transplant.  Patient underwent renal transplant in
   [**2152**], however had had rising Cr over past several months, now with Cr
   5.5 and only 30 cc of urine over 6 hours.   Patient is getting
   evaluated for possible second transplant.   Given fluid overload,
   patient may require initiation of dialysis.  Falling bicarb and rising
   creatinine also due to worsening renal failure.
   - renal consult for posssible initiation of dialysis
   - follow urine output
   - continue epo, zemplar
   - continue sirolimus
   - hold tacrolimus per renal
   - check sirolums level
   - stress dose steroids given chronic steroid use
   - minimize fluid boluses given patients low urine output and high FIO2
   requirements
   .
   5.  Type 1 DM. Patient now with hyperglycemia and bicarb of 20, and
   anion gap of 16.  No urine ketones at present, but at risk for
   development of DKA.
   - insulin drip to maintain FS between 80 and 120
   - follow fingersticks
   .
   6.  Nonishcemic cardiomyopathy.  Patient with EF < 20 on most recent
   echo in [**4-14**].
   - monitor fluid status
   - repeat Echo to further elucidate etiology of respiratory failure
   (?chf)
   - ROMI
   - daily EKGs
   .
   7.  Anemia.  Patient has widely fluctating Hct.  Most recently 38.3 on
   [**7-14**].  MCV 82 with elevated RDW.
   - continue epo
   - tx to 21
   .
   PPx: PPI, bowel regimen, VAP precautions
   FEN: tube feeds through NGT
   CODE: FULL
   Communication: sister
   ICU [**Name (NI) **]
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2161-11-28**] 02:22 PM
   18 Gauge - [**2161-11-28**] 02:23 PM
   Arterial Line - [**2161-11-28**] 04:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2161-11-30 07:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2161-11-29**] 08:11 PM
 STOOL CULTURE - At [**2161-11-30**] 01:13 AM
   for Cdiff
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2161-11-28**] 02:46 PM
   Levofloxacin - [**2161-11-29**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-30**] 12:00 AM
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-11-29**] 07:55 PM
   Heparin Sodium (Prophylaxis) - [**2161-11-30**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-30**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 85 (76 - 93) bpm
   BP: 102/57(74) {85/51(62) - 120/69(86)} mmHg
   RR: 22 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 52.1 kg
   Height: 62 Inch
   CVP: 4 (4 - 9)mmHg
   Total In:
                                                                  2,139 mL
                                                                    415 mL
   PO:
   TF:
                                                                     55 mL
   IVF:
                                                                  1,784 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                    676 mL
                                                                    715 mL
   Urine:
                                                                    446 mL
                                                                    315 mL
   NG:
                                                                    230 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  1,463 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.29/34/154/16/-8
   Ve: 9.9 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful,
   Sedated, Tone: Normal
   Labs / Radiology
   7.7 g/dL
   265 K/uL
   142 mg/dL
   6.8 mg/dL
   16 mEq/L
   5.5 mEq/L
   138 mg/dL
   108 mEq/L
   142 mEq/L
   23.0 %
   14.8 K/uL
        [image002.jpg]
                            [**2161-11-29**]  02:06 AM
                            [**2161-11-29**]  03:51 AM
                            [**2161-11-29**]  04:13 AM
                            [**2161-11-29**]  10:25 AM
                            [**2161-11-29**]  04:45 PM
                            [**2161-11-29**]  04:57 PM
                            [**2161-11-29**]  07:41 PM
                            [**2161-11-29**]  07:49 PM
                            [**2161-11-30**]  01:56 AM
                            [**2161-11-30**]  02:06 AM
   WBC
   7.1
   11.8
   14.8
   Hct
   24.3
   23.3
   23.0
   Plt
   285
   231
   265
   Cr
   5.5
   6.2
   6.4
   6.8
   TCO2
   20
   20
   19
   19
   18
   17
   Glucose
   145
   134
   98
   142
   Other labs: PT / PTT / INR:17.6/150.0/1.6, CK / CKMB /
   Troponin-T:678/4/0.06, ALT / AST:28/35, Alk Phos / T Bili:24/0.5,
   Amylase / Lipase:/18, Differential-Neuts:76.8 %, Lymph:18.2 %, Mono:2.6
   %, Eos:2.0 %, Fibrinogen:294 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.9
   g/dL, LDH:330 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
   52 year old female with Type 1 DM, ESRD s/p failed transplant, admitted
   with respiratory failure secondary to CHF versus pneumonia
   (?aspiration).
   >Respiratory failure.  Etiology of respiratory failure is unclear, but
   differential includes pneumonia (?aspiration event with
   nausea/vomiting), flash pulmonary edema in setting of hypertension,
   ARDS, pneumonitis. Rapid resolution of infiltrate on CXR is highly
   suggestive of aspiration pneumonitis.  Patient's acute onset of
   symptoms, hypertension, blood tinged hemoptysis and ET suctioning, BNP
   of 20,000 c/w pulmonary edema.  However, patient is febrile, on
   immumnosuppressants and has unilateral infiltrate on CXR suggestive of
   an infectious process ( negative sputum gram stain though).  Therefore,
   will cover with broad antibiotic coverage.  Appearance of secretions
   during bronch were consistent with CHF.  With increased sedation
   overnight, patient was able to be weaned significantly from FIO2 of 80
   down to 40, PEEP remains at 12.
   - Vanco/Zosyn/Levaquin for pneumonia (vanco requires dosing by level
   due to impaired renal function, oliguria)
   - CMV viral load
   - rapid respiratory viral panel
   - renal consult for eval of HD for fluid removal
   - send sputum culture
   - r/o PCP given patient is on immunosuppressants, though only on 5 mg
   of prednisone daily
   - f/u blood cultures
   - follow WBC, fever curve
   - follow CVPs and gentle bolus fluids to keep CVP 8-12
   - wean FIO2, PEEP as tolerated
   - check glucan, galactomannan
   - aggressive sedation to keep patient comfortable and not dysyncrhonous
   with vent
   .
   >  Hypotension.  Patient has ESRD and is hypertensive at baseline (on
   toprol 200 mg and nifedipine 90 daily at home).  In ED, patient was
   hypertensive and given concern for flash pulmonary edema, will try to
   maintain SBP < 110.  However, patient became hypotensive in setting of
   increasing sedation and fever, concerning for med effect versus septic
   shock.
   - levophed drip to maintain MAPs > 60, consider dopamine if a second
   pressor needs to be added
   - consider labetolol drip if hypertensive off pressors again
   - small fluid boluses if needed due to worsening renal failure and high
   Fio2
   .
   >ESRD s/p renal transplant.  Patient underwent renal transplant in
   [**2152**], however had had rising Cr over past several months, now with Cr
   5.5 and only 30 cc of urine over 6 hours.   Patient is getting
   evaluated for possible second transplant.   Given fluid overload,
   patient may require initiation of dialysis.  Falling bicarb and rising
   creatinine also due to worsening renal failure.
   - renal consult for posssible initiation of dialysis
   - follow urine output
   - continue epo, zemplar
   - continue sirolimus
   - hold tacrolimus per renal
   - check sirolums level
   - stress dose steroids given chronic steroid use
   - minimize fluid boluses given patients low urine output and high FIO2
   requirements
   .
   >  Type 1 DM. Patient now with hyperglycemia and bicarb of 20, and
   anion gap of 16.  No urine ketones at present, but at risk for
   development of DKA.
   - insulin drip to maintain FS between 80 and 120
   - follow fingersticks
   .
   >  Nonishcemic cardiomyopathy.  Patient with EF < 20 on most recent
   echo in [**4-14**].
   - monitor fluid status
   - repeat Echo to further elucidate etiology of respiratory failure
   (?chf)
   - ROMI
   - daily EKGs
   .
   >  Anemia.  Patient has widely fluctating Hct.  Most recently 38.3 on
   [**7-14**].  MCV 82 with elevated RDW.
   - continue epo
   - tx to 21
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2161-11-28**] 02:22 PM
   18 Gauge - [**2161-11-28**] 02:23 PM
   Arterial Line - [**2161-11-28**] 04:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2161-11-30 07:53:00 Physician Resident Progress Note
Chief Complaint: aspiration pneumonitis
   24 Hour Events:
   - PEEP weaned to 8, FiO2 40%
   Renal: hold tacrolimus, no need for dialysis.
   Cr remained elevated, limited UOP <10cc/hr in evening, with worsening
   acidosis, central venous sat >80%, lactate with slow trend upward, then
   with increased UOP towards morning with max 60cc/hr
   Continued on levophed (fentanyl and versed decreased to 125/4 in
   afternoon)
   ECHO - not performed, presumably decreased staffing on Sunday
   TFs held at 2pm due to high residuals, then restarted at 6pm, held at
   8pm due to residuals
   Rapid respiratory panel (-) preliminary, ?aspiration pneumonitis given
   improvement in cxr
   PCP, [**Name10 (NameIs) 2086**], legionella (-)
   730pm [**11-29**] - stable, +pulse vtach vs. wide bundle branch - self
   reverted after 2 minutes, chem 7 checked, given Ca.
   6am [**11-30**] PTT elevated at 150, changed heparin to [**Hospital1 **], recheck in 3
   hours
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2161-11-28**] 02:46 PM
   Levofloxacin - [**2161-11-29**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-30**] 12:00 AM
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-11-29**] 07:55 PM
   Heparin Sodium (Prophylaxis) - [**2161-11-30**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-30**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 85 (76 - 93) bpm
   BP: 102/57(74) {85/51(62) - 120/69(86)} mmHg
   RR: 22 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 52.1 kg
   Height: 62 Inch
    CVP: 4 (4 - 9)mmHg
   Total In:
                                                                  2,139 mL
                                                                    426 mL
   PO:
   TF:
                                                                     55 mL
   IVF:
                                                                  1,784 mL
                                                                    366 mL
   Blood products:
   Total out:
                                                                    676 mL
                                                                    715 mL
   Urine:
                                                                    446 mL
                                                                    315 mL
   NG:
                                                                    230 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  1,463 mL
                                                                   -288 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.29/34/154/16/-8
   Ve: 10.4 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   265 K/uL
   7.7 g/dL
   142 mg/dL
   6.8 mg/dL
   16 mEq/L
   5.5 mEq/L
   138 mg/dL
   108 mEq/L
   142 mEq/L
   23.0 %
   14.8 K/uL
        [image002.jpg]
                            [**2161-11-29**]  02:06 AM
                            [**2161-11-29**]  03:51 AM
                            [**2161-11-29**]  04:13 AM
                            [**2161-11-29**]  10:25 AM
                            [**2161-11-29**]  04:45 PM
                            [**2161-11-29**]  04:57 PM
                            [**2161-11-29**]  07:41 PM
                            [**2161-11-29**]  07:49 PM
                            [**2161-11-30**]  01:56 AM
                            [**2161-11-30**]  02:06 AM
   WBC
   7.1
   11.8
   14.8
   Hct
   24.3
   23.3
   23.0
   Plt
   285
   231
   265
   Cr
   5.5
   6.2
   6.4
   6.8
   TCO2
   20
   20
   19
   19
   18
   17
   Glucose
   145
   134
   98
   142
   Other labs: PT / PTT / INR:17.6/150.0/1.6, CK / CKMB /
   Troponin-T:678/4/0.06, ALT / AST:28/35, Alk Phos / T Bili:24/0.5,
   Amylase / Lipase:/18, Differential-Neuts:76.8 %, Lymph:18.2 %, Mono:2.6
   %, Eos:2.0 %, Fibrinogen:294 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.9
   g/dL, LDH:330 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
   Ms.  [**Known lastname 6610**] is a 52 year old female with Type 1 DM, ESRD s/p failed
   transplant, admitted with respiratory failure secondary to CHF versus
   pneumonia (?aspiration).
   .
   1.  Respiratory failure.  Etiology of respiratory failure is unclear,
   but differential includes pneumonia (?aspiration event with
   nausea/vomiting), flash pulmonary edema in setting of hypertension,
   ARDS, pneumonitis. Rapid resolution of infiltrate on CXR is highly
   suggestive of aspiration pneumonitis.  Patient's acute onset of
   symptoms, hypertension, blood tinged hemoptysis and ET suctioning, BNP
   of 20,000 c/w pulmonary edema.  However, patient is febrile, on
   immumnosuppressants and has unilateral infiltrate on CXR suggestive of
   an infectious process ( negative sputum gram stain though).  Therefore,
   will cover with broad antibiotic coverage.  Appearance of secretions
   during bronch were consistent with CHF.  With increased sedation
   overnight, patient was able to be weaned significantly from FIO2 of 80
   down to 40, PEEP remains at 12.
   - Vanco/Zosyn/Levaquin for pneumonia (vanco requires dosing by level
   due to impaired renal function, oliguria)
   - CMV viral load
   - rapid respiratory viral panel
   - renal consult for eval of HD for fluid removal
   - send sputum culture
   - r/o PCP given patient is on immunosuppressants, though only on 5 mg
   of prednisone daily
   - f/u blood cultures
   - follow WBC, fever curve
   - follow CVPs and gentle bolus fluids to keep CVP 8-12
   - wean FIO2, PEEP as tolerated
   - check glucan, galactomannan
   - aggressive sedation to keep patient comfortable and not dysyncrhonous
   with vent
   .
   2.  Hypotension.  Patient has ESRD and is hypertensive at baseline (on
   toprol 200 mg and nifedipine 90 daily at home).  In ED, patient was
   hypertensive and given concern for flash pulmonary edema, will try to
   maintain SBP < 110.  However, patient became hypotensive in setting of
   increasing sedation and fever, concerning for med effect versus septic
   shock.
   - levophed drip to maintain MAPs > 60, consider dopamine if a second
   pressor needs to be added
   - consider labetolol drip if hypertensive off pressors again
   - small fluid boluses if needed due to worsening renal failure and high
   Fio2
   .
   4.  ESRD s/p renal transplant.  Patient underwent renal transplant in
   [**2152**], however had had rising Cr over past several months, now with Cr
   5.5 and only 30 cc of urine over 6 hours.   Patient is getting
   evaluated for possible second transplant.   Given fluid overload,
   patient may require initiation of dialysis.  Falling bicarb and rising
   creatinine also due to worsening renal failure.
   - renal consult for posssible initiation of dialysis
   - follow urine output
   - continue epo, zemplar
   - continue sirolimus
   - hold tacrolimus per renal
   - check sirolums level
   - stress dose steroids given chronic steroid use
   - minimize fluid boluses given patients low urine output and high FIO2
   requirements
   .
   5.  Type 1 DM. Patient now with hyperglycemia and bicarb of 20, and
   anion gap of 16.  No urine ketones at present, but at risk for
   development of DKA.
   - insulin drip to maintain FS between 80 and 120
   - follow fingersticks
   .
   6.  Nonishcemic cardiomyopathy.  Patient with EF < 20 on most recent
   echo in [**4-14**].
   - monitor fluid status
   - repeat Echo to further elucidate etiology of respiratory failure
   (?chf)
   - ROMI
   - daily EKGs
   .
   7.  Anemia.  Patient has widely fluctating Hct.  Most recently 38.3 on
   [**7-14**].  MCV 82 with elevated RDW.
   - continue epo
   - tx to 21
   .
   PPx: PPI, bowel regimen, VAP precautions
   FEN: tube feeds through NGT
   CODE: FULL
   Communication: sister
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2161-11-28**] 02:22 PM
   18 Gauge - [**2161-11-28**] 02:23 PM
   Arterial Line - [**2161-11-28**] 04:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2161-12-01 07:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2161-11-30**] 01:27 PM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2161-11-28**] 02:46 PM
   Levofloxacin - [**2161-11-30**] 02:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-30**] 03:27 PM
   Piperacillin - [**2161-12-1**] 12:00 AM
   Infusions:
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Dextrose 50% - [**2161-12-1**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-1**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (96.9
   HR: 98 (82 - 99) bpm
   BP: 132/70(90) {77/40(63) - 132/73(90)} mmHg
   RR: 23 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 52.1 kg
   Height: 62 Inch
   CVP: 3 (3 - 9)mmHg
   Total In:
                                                                  2,498 mL
                                                                    590 mL
   PO:
   TF:
                                                                     90 mL
                                                                    161 mL
   IVF:
                                                                  1,463 mL
                                                                    189 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,605 mL
                                                                    340 mL
   Urine:
                                                                  1,205 mL
                                                                    340 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                    893 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.35/37/134/20/-4
   Ve: 10.1 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.0 g/dL
   215 K/uL
   240 mg/dL
   7.0 mg/dL
   20 mEq/L
   3.3 mEq/L
   114 mg/dL
   106 mEq/L
   147 mEq/L
   23.4 %
   17.2 K/uL
        [image002.jpg]
                            [**2161-11-29**]  07:49 PM
                            [**2161-11-30**]  01:56 AM
                            [**2161-11-30**]  02:06 AM
                            [**2161-11-30**]  08:41 AM
                            [**2161-11-30**]  01:46 PM
                            [**2161-11-30**]  02:13 PM
                            [**2161-11-30**]  02:24 PM
                            [**2161-11-30**]  09:50 PM
                            [**2161-12-1**]  04:34 AM
                            [**2161-12-1**]  04:48 AM
   WBC
   14.8
   17.4
   17.2
   Hct
   23.0
   22.4
   23.4
   Plt
   265
   254
   215
   Cr
   6.8
   7.0
   7.1
   7.1
   7.1
   7.0
   TropT
   0.05
   0.04
   TCO2
   18
   17
   16
   21
   Glucose
   142
   139
   121
   123
   81
   240
   Other labs: PT / PTT / INR:13.6/41.3/1.2, CK / CKMB /
   Troponin-T:549/6/0.04, ALT / AST:26/48, Alk Phos / T Bili:44/0.5,
   Amylase / Lipase:/18, Differential-Neuts:46.0 %, Band:38.0 %, Lymph:5.0
   %, Mono:8.0 %, Eos:0.0 %, Fibrinogen:294 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:3.0 g/dL, LDH:297 IU/L, Ca++:8.1 mg/dL, Mg++:2.6 mg/dL,
   PO4:10.6 mg/dL
   CXR  [**12-1**]: improving left sided infiltrate. ET needs to be advanced
   2cm.
   Assessment and Plan
   52 year old female with Type 1 DM, ESRD s/p failed transplant ([**2152**]),
   admitted with acute respiratory failure secondary to CHF versus
   pneumonia (?aspiration) in the setting of progressive renal failure.
   >Respiratory failure.  Likely multifactorial: ? renal failure with
   volume overloaded  with hx of depressed EF of 15% (BNP 20,000),
   aspiration event in an immunocomprimised host (on broad coverage) with
   neg BAL eval and neg viral panel.  Its possible that this is also an
   inflammatory lung condition, given the rapid resolution. Would favor
   lightening sedation significantly and attempt at PS. Only positive clx
   is moraxella. Would fav
   - Vanco/Zosyn/Levaquin for pneumonia (vanco requires dosing by level
   due to impaired renal function, oliguria)pending final results on clx
   data. Will d/c vancomycin today and plan for further titration of abx
   based on clx data.
   - initiation of HD will discuss with renal.
   - PS trial at present, requiring [**10-11**]. Additional barrier includes
   altered MS (improving with hold on sedation)
   >  Hypotension.  Patient has ESRD and is hypertensive at baseline (on
   toprol 200 mg and nifedipine 90 daily at home).  In ED, patient was
   hypertensive and given concern for flash pulmonary edema, became
   hypotensive in the setting of labetalol raising concern for infectious
   vs caridogenic  and possibly compounded by falling Hct. Finally
   sedation is likely contributing to the hypotension.  TTE showing
   biventricular failure with worsened right sided function. Holding beta
   blocker and other empiric therapy for now.
   - Stress dose steroids given chronic prednisone usage, will
 dose
   today.
   - holding cardiac meds
   > Anemia: did not respond to a unit of PRBC. Will need to guiac stool.
   Could be dilutional Will transfuse an additional unit today. No
   evidence of  hemolysis
    >ESRD s/p renal transplant.  Patient underwent renal transplant in
   [**2152**], however had had rising Cr over past several months, now with Cr
   5.5 she will likely require initiation of HD prior to extubation to
   assist with volume control and electrolyte management although there is
   no acute indication it would seem likely that she will need HD soon.
   - discuss timing of HD with renal
   - follow urine output
   - stress dose steroids given chronic steroid use, decrease by
 today.
   > hypernatremia: increase free water via tube feeds.
   >  Type 1 DM. Patient now with hyperglycemia and bicarb of 20, and
   anion gap of 16.  No urine ketones at present, but at risk for
   development of DKA.
   - Start reglan for ? of diabetic gastroparesis vs opiate effect
   - insulin drip to maintain FS between 80 and 120
   - follow fingersticks
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2161-11-30**] 06:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2161-11-28**] 02:22 PM
   18 Gauge - [**2161-11-28**] 02:23 PM
   Arterial Line - [**2161-11-28**] 04:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes; patient is critically ill

2161-12-01 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Planning for HD line placement; not done due to continued high PTT.
   HSQ on hold.  Plan for placement this morning.
   - K down to 3.9 with Kayexalate, bicarb fluid/fixing acidosis.
   - Transfused 1 unit PRBCs, did not bump appropriately.
   - Reglan started, now passing stool.
   - TTE: EF 20%, severe global HK with some regional differences, RV
   dilation and HK, PA diastolic hypertension.
   - Off sedation since 6 pm; some apnea.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2161-11-28**] 02:46 PM
   Levofloxacin - [**2161-11-30**] 02:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-30**] 03:27 PM
   Piperacillin - [**2161-12-1**] 12:00 AM
   Infusions:
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Dextrose 50% - [**2161-12-1**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-1**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (96.9
   HR: 98 (82 - 99) bpm
   BP: 132/70(90) {77/40(63) - 132/73(90)} mmHg
   RR: 23 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 52.1 kg
   Height: 62 Inch
    CVP: 3 (3 - 9)mmHg
   Total In:
                                                                  2,498 mL
                                                                    613 mL
   PO:
   TF:
                                                                     90 mL
                                                                    177 mL
   IVF:
                                                                  1,463 mL
                                                                    196 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,605 mL
                                                                    340 mL
   Urine:
                                                                  1,205 mL
                                                                    340 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                    893 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.35/37/134/20/-4
   Ve: 10.1 L/min
   PaO2 / FiO2: 335
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   8.0 g/dL
   240 mg/dL
   7.0 mg/dL
   20 mEq/L
   3.3 mEq/L
   114 mg/dL
   106 mEq/L
   147 mEq/L
   23.4 %
   17.2 K/uL
        [image002.jpg]
                            [**2161-11-29**]  07:49 PM
                            [**2161-11-30**]  01:56 AM
                            [**2161-11-30**]  02:06 AM
                            [**2161-11-30**]  08:41 AM
                            [**2161-11-30**]  01:46 PM
                            [**2161-11-30**]  02:13 PM
                            [**2161-11-30**]  02:24 PM
                            [**2161-11-30**]  09:50 PM
                            [**2161-12-1**]  04:34 AM
                            [**2161-12-1**]  04:48 AM
   WBC
   14.8
   17.4
   17.2
   Hct
   23.0
   22.4
   23.4
   Plt
   265
   254
   215
   Cr
   6.8
   7.0
   7.1
   7.1
   7.1
   7.0
   TropT
   0.05
   0.04
   TCO2
   18
   17
   16
   21
   Glucose
   142
   139
   121
   123
   81
   240
   Other labs: PT / PTT / INR:13.6/41.3/1.2, CK / CKMB /
   Troponin-T:549/6/0.04, ALT / AST:26/48, Alk Phos / T Bili:44/0.5,
   Amylase / Lipase:/18, Differential-Neuts:46.0 %, Band:38.0 %, Lymph:5.0
   %, Mono:8.0 %, Eos:0.0 %, Fibrinogen:294 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:3.0 g/dL, LDH:297 IU/L, Ca++:8.1 mg/dL, Mg++:2.6 mg/dL,
   PO4:10.6 mg/dL
   Assessment and Plan
   Ms.  [**Known lastname 6610**] is a 52 year old female with Type 1 DM, ESRD s/p failed
   transplant, admitted with respiratory failure secondary to ? aspiration
   pneumonitis versus steroid responsive pneumonia.
   .
   1.  Respiratory failure.  Etiology of respiratory failure is unclear,
   but differential includes pneumonia (?aspiration event with
   nausea/vomiting), flash pulmonary edema in setting of hypertension,
   ARDS, pneumonitis. Rapid resolution of infiltrate on CXR is highly
   suggestive of aspiration pneumonitis versus steroid responsive
   process.  Patient's acute onset of symptoms, hypertension, blood tinged
   hemoptysis and ET suctioning, BNP of 20,000 c/w pulmonary edema.
   However, patient is febrile, on immumnosuppressants and has unilateral
   infiltrate on CXR suggestive of an infectious process ( negative sputum
   gram stain though).  Therefore, will cover with broad antibiotic
   coverage.  Appearance of secretions during bronch were consistent with
   CHF.  There has been rapid improvement of vent settings in 1 day.
   Sputum cultures negative. PCP [**Name Initial (PRE) 365**].
   - Vanco/Zosyn/Levaquin for pneumonia (vanco requires dosing by level
   due to impaired renal function, oliguria)
   - CMV viral load
   - rapid respiratory viral panel
   - renal consult for eval of HD for fluid removal
   - f/u blood cultures, sputum
   - follow WBC, fever curve
   - wean PEEP to 5 as tolerated
   - wean sedation and then try for pressure support trial
   .
   2.  Hypotension.  Patient has ESRD and is hypertensive at baseline (on
   toprol 200 mg and nifedipine 90 daily at home).  In ED, patient was
   hypertensive and given concern for flash pulmonary edema so wanted to
   maintain SBP < 110.  However, patient became hypotensive in setting of
   increasing sedation and fever, concerning for med effect versus septic
   shock.
   - levophed drip to maintain MAPs > 60
   .
   4.  ESRD s/p renal transplant.  Patient underwent renal transplant in
   [**2152**], however had had rising Cr over past several months, now with Cr
   5.5 and only 30 cc of urine over 6 hours.   Patient is getting
   evaluated for possible second transplant.   Given fluid overload,
   patient may require initiation of dialysis.  Falling bicarb and rising
   creatinine also due to worsening renal failure and worsening
   hyperkalemia.  Will likely need CVVH.
   - renal consult for posssible initiation of dialysis
   - follow urine output
   - continue epo, zemplar
   - continue sirolimus
   - hold tacrolimus per renal
   - check sirolums level
   - stress dose steroids given chronic steroid use
   - minimize inputs given low UOP
   - start calcium acetate, nephrocaps
   .
   5.  Type 1 DM.
   - insulin drip to maintain FS between 80 and 120
   - follow fingersticks
   .
   6.  Nonishcemic cardiomyopathy.  Patient with EF < 20 on most recent
   echo in [**4-14**].  Had episode of wide complex tachycardia overnight.
   - repeat Echo to further elucidate etiology of respiratory failure
   (?chf)
   - ROMI
   - daily EKGs
   .
   7.  Anemia.  Patient has widely fluctating Hct.  Most recently 38.3 on
   [**7-14**].  MCV 82 with elevated RDW.
   - continue epo
   - PRBC transfusion today
   .
   PPx: PPI, bowel regimen, VAP precautions
   FEN: tube feeds through NGT
   CODE: FULL
   Communication: daughter
   ICU [**Name2 (NI) **]
   Nutrition:
   [**Name (NI) 140**] Renal (Full) - [**2161-11-30**] 06:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-11-28**] 02:22 PM
   18 Gauge - [**2161-11-28**] 02:23 PM
   Arterial Line - [**2161-11-28**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2161-12-02 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-30**] 03:27 PM
   Levofloxacin - [**2161-12-1**] 02:00 PM
   Piperacillin - [**2161-12-2**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2161-12-1**] 03:00 PM
   Metoprolol - [**2161-12-2**] 01:30 AM
   Midazolam (Versed) - [**2161-12-2**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-2**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 89 (89 - 108) bpm
   BP: 150/74(97) {122/64(83) - 165/93(120)} mmHg
   RR: 23 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 52.1 kg
   Height: 62 Inch
   CVP: 340 (2 - 345)mmHg
   Total In:
                                                                  2,308 mL
                                                                  2,339 mL
   PO:
   TF:
                                                                    660 mL
                                                                    224 mL
   IVF:
                                                                    638 mL
                                                                  1,655 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    775 mL
   Urine:
                                                                  1,720 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    588 mL
                                                                  1,564 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 447 (447 - 447) mL
   PS : 10 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/36/152/23/0
   Ve: 11 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished: )
   diffusely rhonchorous as compared to yesterday
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   7.6 g/dL
   224 K/uL
   234 mg/dL
   7.3 mg/dL
   23 mEq/L
   2.1 mEq/L
   124 mg/dL
   104 mEq/L
   148 mEq/L
   22.8 %
   18.5 K/uL
        [image002.jpg]
                            [**2161-11-30**]  02:13 PM
                            [**2161-11-30**]  02:24 PM
                            [**2161-11-30**]  09:50 PM
                            [**2161-12-1**]  04:34 AM
                            [**2161-12-1**]  04:48 AM
                            [**2161-12-1**]  03:45 PM
                            [**2161-12-1**]  03:58 PM
                            [**2161-12-1**]  09:58 PM
                            [**2161-12-2**]  03:25 AM
                            [**2161-12-2**]  03:49 AM
   WBC
   17.2
   19.2
   18.5
   Hct
   23.4
   24.4
   22.8
   Plt
   [**Telephone/Fax (3) 6693**]
   Cr
   7.1
   7.1
   7.0
   7.2
   7.4
   7.3
   TCO2
   16
   21
   24
   24
   Glucose
   123
   81
   [**Telephone/Fax (3) 6694**]
   234
   Other labs: PT / PTT / INR:13.0/29.5/1.1, CK / CKMB /
   Troponin-T:887/6/0.04, ALT / AST:43/92, Alk Phos / T Bili:95/0.4,
   Amylase / Lipase:/18, Differential-Neuts:88.0 %, Band:5.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:294 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.8 g/dL, LDH:393 IU/L, Ca++:8.0 mg/dL, Mg++:2.7 mg/dL, PO4:9.9
   mg/dL
   Assessment and Plan
   52 year old female with Type 1 DM, ESRD s/p failed transplant ([**2152**]),
   admitted with acute respiratory failure secondary to CHF versus
   pneumonia (?aspiration) in the setting of progressive renal failure.
   >Respiratory failure.  Likely multifactorial: ? renal failure with
   volume overloaded  with hx of depressed EF of 15% (BNP 20,000),
   aspiration event in an immunocomprimised host (on broad coverage) with
   neg BAL eval and neg viral panel.  Its possible that this is also an
   inflammatory lung condition, given the rapid resolution. Would favor
   lightening sedation significantly and attempt at PS. Only positive clx
   is moraxella.  Her issue at present is that she is markedly volume
   overloaded
   - Stopped Vanco. Will stop pip-tazo [**12-2**], will treat for 10 day course
   of levaquin.
   - initiation of HD will discuss with renal.
   - PS trial at present, but now vol overloaded
   >  Hypotension.  Patient has ESRD and is hypertensive at baseline (on
   toprol 200 mg and nifedipine 90 daily at home).  In ED, patient was
   hypertensive and given concern for flash pulmonary edema, became
   hypotensive in the setting of labetalol raising concern for infectious
   vs caridogenic  and possibly compounded by falling Hct. Finally
   sedation is likely contributing to the hypotension.  TTE showing
   biventricular failure with worsened right sided function. Holding beta
   blocker and other empiric therapy for now.
   - Stress dose steroids given chronic prednisone usage, will
 dose
   today (25 mg IV q 12today) with plan to convert to pred tomorrow.
   - holding cardiac meds
   > Anemia: did not respond to a unit of PRBC. Will need to guiac stool.
   Could be dilutional Will transfuse an additional unit today. No
   evidence of  hemolysis but conts to require transfusion. Will recheck
   hemolysis labs again as well as Fe, B12 and folate as well as retic
   count and
   - Transfuse 1U PRBC, recheck Hct, goal >25
   - anemia work up
   >ESRD s/p renal transplant.  Patient underwent renal transplant in
   [**2152**], however had had rising Cr over past several months, now with Cr
   5.5 she will likely require initiation of HD prior to extubation to
   assist with volume control and electrolyte management although there is
   no acute indication it would seem likely that she will need HD soon.
   - discuss timing of HD with renal
   - follow urine output
   - stress dose steroids given chronic steroid use, decrease by
 today.
   > hypernatremia: remains hypernatremic but volume overloaded
   (interdependent factors ), she will need to cont to get free water and
   also IV diuresis
   - q 6 hr lyte checks
   >  Type 1 DM. Patient now with hyperglycemia and bicarb of 20, and
   anion gap of 16.  No urine ketones at present, but at risk for
   development of DKA.
   - reglan for ? of diabetic gastroparesis vs opiate effect
   - insulin drip to maintain FS between 80 and 120
   - follow fingersticks
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2161-11-30**] 06:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2161-11-28**] 02:22 PM
   18 Gauge - [**2161-11-28**] 02:23 PM
   Arterial Line - [**2161-11-28**] 04:20 PM
   20 Gauge - [**2161-12-2**] 06:51 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin (restart today)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2161-12-02 08:13:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Free water boluses increased to 200q4 due to hypernatremia, given IV
   D5W as well with improvement of hypernatremia.
   Renal:  hold off on dialysis line for now, trial of lasix, d/c zemplar,
   increase Epo dose
   Stress dose steroids were tapered to 50 q 12 hours (from 50 q 6 hours)
   Increasing tachypnea, gagging on tube, but following simple commands,
   so given IV boluses of versed for sedation.
   Allergies:
   Percocet (Oral) Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2161-12-1**] 02:00 PM
   Piperacillin - [**2161-12-2**] 12:00 AM
   Infusions:
   Insulin Drip titrate BG 150-200
   Propofol 5-20 mcg/kg/min titrated to sedation
   Other ICU medications:
   Furosemide (Lasix) - [**2161-12-1**] 03:00 PM
   Metoprolol - [**2161-12-2**] 01:30 AM
   Heparin 5000 units SC BID
   Levofloxacin 250 mg IV Q24H End [**12-7**]
   Hydrocortisone 25 mg IV Q12H
   Epoetin Alfa 4000 unit SC MWF HS
   Vit K 5 mg PO *3 doses
   Metoclopramide 5 mg IV Q6H
   Calcium Acetate 1334 mg PO TID W/MEALS
   Nephrocaps 1 CAP PO DAILY
   Sirolimus 8 mg PO DAILY .
   Albuterol MDI 8 PUFF IH Q4H:PRN
   Acetaminophen 325-650 mg PO Q6H:PRN
   Pantoprazole 40 mg IV Q24H
   Pravastatin 20 mg PO DAILY
   Docusate 100 mg PO BID
   Senna 1 TAB PO BID:PRN
   Bisacodyl 10mg PO/PR DAILY:PRN
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-2**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 89 (89 - 108) bpm
   BP: 150/74(97) {122/64(83) - 165/93(120)} mmHg
   RR: 23 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 52.1 kg
   Height: 62 Inch
    CVP: 340 (2 - 345)mmHg
   Total In:
                                                                  2,308 mL
                                                                  2,474 mL
   PO:
   TF:
                                                                    660 mL
                                                                    242 mL
   IVF:
                                                                    638 mL
                                                                  1,772 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    775 mL
   Urine:
                                                                  1,720 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    588 mL
                                                                  1,699 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 447 (447 - 447) mL
   PS : 10 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   RSBI Deferred: Agitated
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/36/152/23/0
   Ve: 11 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: sedated
   Head, Ears, Nose, Throat: intubated
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Cyanosis, Clubbing
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Guaiac negative
   Labs / Radiology
   224 K/uL
   7.6 g/dL
   234 mg/dL
   7.3 mg/dL
   23 mEq/L
   2.1 mEq/L
   124 mg/dL
   104 mEq/L
   148 mEq/L
   22.8 %
   18.5 K/uL
        [image002.jpg]
                            [**2161-11-30**]  02:13 PM
                            [**2161-11-30**]  02:24 PM
                            [**2161-11-30**]  09:50 PM
                            [**2161-12-1**]  04:34 AM
                            [**2161-12-1**]  04:48 AM
                            [**2161-12-1**]  03:45 PM
                            [**2161-12-1**]  03:58 PM
                            [**2161-12-1**]  09:58 PM
                            [**2161-12-2**]  03:25 AM
                            [**2161-12-2**]  03:49 AM
   WBC
   17.2
   19.2
   18.5
   Hct
   23.4
   24.4
   22.8
   Plt
   [**Telephone/Fax (3) 6693**]
   Cr
   7.1
   7.1
   7.0
   7.2
   7.4
   7.3
   TCO2
   16
   21
   24
   24
   Glucose
   123
   81
   [**Telephone/Fax (3) 6694**]
   234
   Other labs: PT / PTT / INR:13.0/29.5/1.1, CK / CKMB /
   Troponin-T:887/6/0.04, ALT / AST:43/92, Alk Phos / T Bili:95/0.4,
   Amylase / Lipase:/18, Differential-Neuts:88.0 %, Band:5.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:294 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.8 g/dL, LDH:393 IU/L, Ca++:8.0 mg/dL, Mg++:2.7 mg/dL, PO4:9.9
   mg/dL
   Assessment and Plan
   Ms.  [**Known lastname 6610**] is a 52 year old female with Type 1 DM, EF 20%, ESRD s/p
   failed transplant, admitted with respiratory failure secondary to ?
   aspiration pneumonitis versus steroid responsive pneumonia.
   1.  Respiratory failure.  Initially infiltrate, high vent support
   responding to steroids. Now infiltrate, fevers, moraxella. [**12-1**]
   started Zosyn/Levo.  CMV VL negative. Today [**12-2**] evidence of volume
   overload w/ pleural effusions.
   Given only Moraxella in sputum will narrow coverage to Levofloxacin for
   10 day course, stopped Zosyn
   Renal recommends initiation of HD given volume status and goal of
   weaning off vent
   Trend WBC, fevers
   Sedation with propofol [**12-2**] given prior residual sedation with benzo.
   Plan for PS trial [**12-3**] am
   Diuresis goal negative 1-2L today
   2.Hypotension.  Resolved. Patient has ESRD and is hypertensive at
   baseline (on toprol 200 mg and nifedipine 90 daily at home).  In ED,
   patient was hypertensive and given concern for flash pulmonary edema.
   However, patient became hypotensive in setting of increasing sedation
   and fever, concerning for med effect versus septic shock.  Now off
   pressors for > 48 hours in setting of lightening sedation and pressure
   have resolved..
   Monitor BP
   Taper stress dose steroids to 25 mg q12hr
   3.  ESRD s/p renal transplant [**2152**]. Evidence graft slowly failing over
   past several months. Patient under consideration 2^nd transplant. Off
   Zemplar currently.
   Appreciate Renal Recs
   Initiate HD for volume management
   UOP good with lasix, cont using lasix for goal neg 1-2 L [**2161-12-2**]
   Continue EPO
   Continue Sirolimus, HOLDING Tacrolimus per renal
   Calcium acetate, nephrocaps
   Check Sirolimus level
   4.  Type 1 DM.
   Insulin drip to maintain FS between 150-200, family reports better
   mentation at this level and pt with erratic BG inc lows to 40s
   Follow fingersticks
   5.  Nonischemic cardiomyopathy.  Patient with EF < 20 on most recent
   echo in [**4-14**].  Had episode of wide complex tachycardia overnight two
   nights ago.  Has mildly elevated troponin and CK.  Echo is unchanged.
   Daily EKGs
   6.  Anemia.  Patient has widely fluctuating Hct.  Most recently 38.3
   prior to admission [**7-14**].  MCV 82 with elevated RDW.  Poor response to
   blood transfusion yesterday, so will transfuse again.
   On Increased EPO dose per renal
   Transfuse to goal HCT >25
   7. Hypernatremia.
   Free water boluses through NGT
   D5W if needed, but try to
   Follow Na
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2161-11-30**] 06:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-11-28**] 02:22 PM
   18 Gauge - [**2161-11-28**] 02:23 PM
   Arterial Line - [**2161-11-28**] 04:20 PM
   20 Gauge - [**2161-12-2**] 06:51 AM
   Prophylaxis:
   DVT:  boots, restart heparin 5000 units q12hr
   Stress ulcer:  PPI
   VAP:  precautions
   Comments:
   Communication: daughter  Comments:
   [**Name2 (NI) 66**] status: FULL
   Disposition: ICU

2161-12-03 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
Patient received dialysis and got 1.5 L off
   Patient given 160 mEq of KCl due to ongoing diuresis
   Patient put out very well to 80mg IV lasix
   Free water flushes decreased to 200ml q6hr
   Started propofol for sedation
   Failed AM [**12-3**] [**First Name9 (NamePattern2) **] [**Last Name (un) 3406**] 180, uncomfortable, continues to have copious
   secretions
   Allergies:
   Percocet (Oral) Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2161-12-2**] 05:53 PM end [**12-7**]
   Infusions:
   Insulin - Regular - 6 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2161-12-2**] 10:00 AM
   Pantoprazole (Protonix) - [**2161-12-2**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2161-12-3**] 12:21 AM
   Furosemide (Lasix) - [**2161-12-1**] 03:00 PM
   Metoprolol - [**2161-12-2**] 01:30 AM
   Hydrocortisone 25 mg IV Q12H
   Epoetin Alfa 4000 unit SC MWF HS
   Vit K 5 mg PO *3 doses
   Metoclopramide 5 mg IV Q6H
   Calcium Acetate 1334 mg PO TID W/MEALS
   Nephrocaps 1 CAP PO DAILY
   Sirolimus 8 mg PO DAILY .
   Albuterol MDI 8 PUFF IH Q4H:PRN
   Acetaminophen 325-650 mg PO Q6H:PRN
   Pantoprazole 40 mg IV Q24H
   Pravastatin 20 mg PO DAILY
   Docusate 100 mg PO BID
   Senna 1 TAB PO BID:PRN
   Bisacodyl 10mg PO/PR DAILY:PRN
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-3**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.3
   HR: 83 (77 - 99) bpm
   BP: 141/74(95) {126/71(88) - 166/92(115)} mmHg
   RR: 24 (0 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 52.1 kg
   Height: 62 Inch
    CVP: 294 (4 - 294)mmHg
   Total In:
                                                                  4,986 mL
                                                                    567 mL
   PO:
   TF:
                                                                    623 mL
                                                                    236 mL
   IVF:
                                                                  2,782 mL
                                                                    131 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                  3,445 mL
                                                                  1,650 mL
   Urine:
                                                                  1,595 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,541 mL
                                                                 -1,083 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 353 (349 - 451) mL
   PS : 8 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 139
   RSBI Deferred: RR >35
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.41/38/134/23/0
   Ve: 13.3 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Fixed)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   204 K/uL
   9.1 g/dL
   144 mg/dL
   6.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   112 mg/dL
   106 mEq/L
   142 mEq/L
   26.3 %
   14.1 K/uL
        [image002.jpg]
                            [**2161-12-1**]  03:58 PM
                            [**2161-12-1**]  09:58 PM
                            [**2161-12-2**]  03:25 AM
                            [**2161-12-2**]  03:49 AM
                            [**2161-12-2**]  08:29 AM
                            [**2161-12-2**]  09:11 AM
                            [**2161-12-2**]  01:58 PM
                            [**2161-12-2**]  07:15 PM
                            [**2161-12-3**]  02:01 AM
                            [**2161-12-3**]  02:15 AM
   WBC
   18.5
   18.1
   14.1
   Hct
   22.8
   23.9
   26.3
   Plt
   [**Telephone/Fax (3) 6730**]
   Cr
   7.4
   7.3
   6.9
   6.8
   6.1
   6.0
   TCO2
   24
   24
   24
   25
   Glucose
   136
   234
   124
   76
   258
   144
   Other labs: PT / PTT / INR:12.6/52.0/1.1, CK / CKMB /
   Troponin-T:887/6/0.04, ALT / AST:43/92, Alk Phos / T Bili:95/0.4,
   Amylase / Lipase:/18, Differential-Neuts:88.0 %, Band:5.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:294 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.8 g/dL, LDH:395 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:5.6
   mg/dL
   Assessment and Plan
   Ms.  [**Known lastname 6610**] is a 52 year old female with Type 1 DM, EF 20%, ESRD s/p
   failed transplant, admitted with respiratory failure secondary to ?
   aspiration pneumonitis versus steroid responsive pneumonia.
   1.  Respiratory failure.  Initially infiltrate, high vent support
   responding to steroids. Now infiltrate, fevers, moraxella. [**12-1**]
   started Zosyn/Levo.  CMV VL negative. Today [**12-2**] evidence of volume
   overload w/ pleural effusions.
   Moraxella, Levofloxacin for 10 day course to end [**12-7**]
 change
   Levofloxacin to 500 mg q48hr per renal recs
   Trend WBC, fevers
   Sedation with propofol starting [**12-2**]
   Failed [**Last Name (un) 3406**] likely large component of anxiety, will retry with goal of
   extubation given improved CXR
   Diuresis goal negative 1-2L today, will give 80 mg lasix iv prior to
   extubation attempt
   2. Hypotension.  Resolved. Patient has ESRD and is hypertensive at
   baseline (on toprol 200 mg and nifedipine 90 daily at home).  In ED,
   patient was hypertensive and given concern for flash pulmonary edema.
   However, patient became hypotensive in setting of increasing sedation
   and fever, concerning for med effect versus septic shock.  Now off
   pressors for > 48 hours in setting of lightening sedation and pressure
   have resolved..
   Monitor BP
   Stop stress dose steroids and place on prednisone 5mg daily
   Restart lopressor at 12.5 mg PO TID
   3.  ESRD s/p renal transplant [**2152**]. Evidence graft slowly failing over
   past several months. Patient under consideration 2^nd transplant. Off
   Zemplar currently.
   Appreciate Renal Recs, no plans for HD today given patient response to
   lasix
   UOP good with lasix, cont using lasix for goal neg 1-2 L [**2161-12-2**]
   Continue EPO
   Continue Sirolimus, HOLDING Tacrolimus per renal
   Calcium acetate, nephrocaps
   Check Sirolimus level
 [**12-4**]
   4.  Type 1 DM.
   Convert Insulin drip to standing and HISS. Given at 1 unit per hour,
   and prior on lantus 4 unit [**Hospital1 **], will start lantus 8 units daily and
   HISS.
   Follow fingersticks
   5.  Nonischemic cardiomyopathy.  Patient with EF < 20 on most recent
   echo in [**4-14**].  Had episode of wide complex tachycardia overnight two
   nights ago.  Has mildly elevated troponin and CK.  Echo is unchanged.
   Daily EKGs
   6.  Anemia.  Patient has widely fluctuating Hct.  Most recently 38.3
   prior to admission [**7-14**].  MCV 82 with elevated RDW.  Poor response to
   blood transfusion yesterday, so will transfuse again.
   On Increased EPO dose per renal
   Transfuse to goal HCT >25
   7. Hypernatremia: resolved
   Free water boluses through NGT, decreased b/c  sodium normalized
   Follow Na [**Hospital1 **]
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2161-12-2**] 07:45 AM 30 mL/hour
 HOLD tube feeds
   for attempted extubation
   Glycemic Control:  Insulin drip
   Lines:
   Multi Lumen - [**2161-11-28**] 02:22 PM
   18 Gauge - [**2161-11-28**] 02:23 PM
   Arterial Line - [**2161-11-28**] 04:20 PM
   20 Gauge - [**2161-12-2**] 06:51 AM
   Dialysis Catheter - [**2161-12-2**] 02:30 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:  on PPI
   VAP:   precautions
   Comments:
   Communication: daughter Comments:  [**Name2 (NI) 6732**] [**Name (NI) 6733**] (home phone)
   [**Telephone/Fax (1) 6734**]
   Code status:  FULL
   Disposition: ICU

2161-12-03 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2161-12-2**] 02:30 PM
 DIALYSIS CATHETER - START [**2161-12-2**] 02:43 PM
 DIALYSIS CATHETER - STOP [**2161-12-2**] 03:10 PM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-30**] 03:27 PM
   Piperacillin - [**2161-12-2**] 08:00 AM
   Levofloxacin - [**2161-12-2**] 05:53 PM
   Infusions:
   Insulin - Regular - 6 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2161-12-2**] 10:00 AM
   Pantoprazole (Protonix) - [**2161-12-2**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2161-12-3**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-3**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.3
   HR: 83 (77 - 99) bpm
   BP: 141/74(95) {126/71(88) - 166/92(115)} mmHg
   RR: 24 (0 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 52.1 kg
   Height: 62 Inch
   CVP: 294 (294 - 294)mmHg
   Total In:
                                                                  4,986 mL
                                                                    574 mL
   PO:
   TF:
                                                                    623 mL
                                                                    241 mL
   IVF:
                                                                  2,782 mL
                                                                    133 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                  3,445 mL
                                                                  1,650 mL
   Urine:
                                                                  1,595 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,541 mL
                                                                 -1,076 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 353 (349 - 451) mL
   PS : 8 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 139
   RSBI Deferred: RR >35
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.41/38/134/23/0
   Ve: 13.3 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.1 g/dL
   204 K/uL
   144 mg/dL
   6.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   112 mg/dL
   106 mEq/L
   142 mEq/L
   26.3 %
   14.1 K/uL
        [image002.jpg]
                            [**2161-12-1**]  03:58 PM
                            [**2161-12-1**]  09:58 PM
                            [**2161-12-2**]  03:25 AM
                            [**2161-12-2**]  03:49 AM
                            [**2161-12-2**]  08:29 AM
                            [**2161-12-2**]  09:11 AM
                            [**2161-12-2**]  01:58 PM
                            [**2161-12-2**]  07:15 PM
                            [**2161-12-3**]  02:01 AM
                            [**2161-12-3**]  02:15 AM
   WBC
   18.5
   18.1
   14.1
   Hct
   22.8
   23.9
   26.3
   Plt
   [**Telephone/Fax (3) 6730**]
   Cr
   7.4
   7.3
   6.9
   6.8
   6.1
   6.0
   TCO2
   24
   24
   24
   25
   Glucose
   136
   234
   124
   76
   258
   144
   Other labs: PT / PTT / INR:12.6/52.0/1.1, CK / CKMB /
   Troponin-T:887/6/0.04, ALT / AST:43/92, Alk Phos / T Bili:95/0.4,
   Amylase / Lipase:/18, Differential-Neuts:88.0 %, Band:5.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:294 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.8 g/dL, LDH:395 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:5.6
   mg/dL
   Assessment and Plan
   Assessment and Plan
   52 year old female with Type 1 DM, ESRD s/p failed transplant ([**2152**]),
   admitted with acute respiratory failure secondary to CHF versus
   pneumonia (?aspiration) in the setting of progressive renal failure
   >Respiratory failure.  Likely multifactorial: ? renal failure with
   volume overloaded  with hx of depressed EF of 15% (BNP 20,000),
   aspiration event in an immunocomprimised host (on broad coverage) with
   neg BAL eval and neg viral panel.  Its possible that this is also an
   inflammatory lung condition, given the rapid resolution. Would favor
   lightening sedation significantly and attempt at PS. Only positive clx
   is moraxella.  Her issue at present is that she is markedly volume
   overloaded
   - Stopped Vanco. Will stop pip-tazo [**12-2**], will treat for 10 day course
   of levaquin.
   - initiation of HD will discuss with renal.
   - PS trial at present, but now vol overloaded
   > Anemia: did not respond to a unit of PRBC. Will need to guiac stool.
   Could be dilutional Will transfuse an additional unit today. No
   evidence of  hemolysis but conts to require transfusion. Will recheck
   hemolysis labs again as well as Fe, B12 and folate as well as retic
   count and
   - Transfuse 1U PRBC, recheck Hct, goal >25
   - anemia work up
   >ESRD s/p renal transplant.  Patient underwent renal transplant in
   [**2152**], however had had rising Cr over past several months, now with Cr
   5.5 she will likely require initiation of HD prior to extubation to
   assist with volume control and electrolyte management although there is
   no acute indication it would seem likely that she will need HD soon.
   - discuss timing of HD with renal
   - follow urine output
   - stress dose steroids given chronic steroid use, decrease by
 today.
   > hypernatremia: remains hypernatremic but volume overloaded
   (interdependent factors ), she will need to cont to get free water and
   also IV diuresis
   - q 6 hr lyte checks
   >  Type 1 DM. Patient now with hyperglycemia and bicarb of 20, and
   anion gap of 16.  No urine ketones at present, but at risk for
   development of DKA.
   - reglan for ? of diabetic gastroparesis vs opiate effect
   - insulin drip to maintain FS between 80 and 120
   - follow fingersticks
   (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2161-12-2**] 07:45 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-11-28**] 02:22 PM
   18 Gauge - [**2161-11-28**] 02:23 PM
   Arterial Line - [**2161-11-28**] 04:20 PM
   20 Gauge - [**2161-12-2**] 06:51 AM
   Dialysis Catheter - [**2161-12-2**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2161-12-04 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    52 yo women with DM I, ESRD, admitted with respiratory failure.
   Severe systolic HF.  Did well after dialysis and now making urine and
   diuresing.
   24 Hour Events:
   - Extubated
   - Autodiuresis
   - HD catether removed
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2161-12-2**] 08:00 AM
   Levofloxacin - [**2161-12-2**] 05:53 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2161-12-3**] 10:15 AM
   Metoprolol - [**2161-12-3**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-4**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 93 (84 - 105) bpm
   BP: 178/93(125) {122/69(83) - 198/106(269)} mmHg
   RR: 21 (8 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 52.1 kg
   Height: 62 Inch
   CVP: 13 (0 - 13)mmHg
   Total In:
                                                                  1,340 mL
                                                                    279 mL
   PO:
                                                                    100 mL
                                                                    200 mL
   TF:
                                                                    615 mL
   IVF:
                                                                    426 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  4,330 mL
                                                                  1,100 mL
   Urine:
                                                                  3,980 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,990 mL
                                                                   -821 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 287 (287 - 287) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 82
   PIP: 5 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.6 g/dL
   222 K/uL
   177 mg/dL
   5.9 mg/dL
   24 mEq/L
   3.8 mEq/L
   110 mg/dL
   107 mEq/L
   147 mEq/L
   25.0 %
   11.1 K/uL
        [image002.jpg]
                            [**2161-12-2**]  03:49 AM
                            [**2161-12-2**]  08:29 AM
                            [**2161-12-2**]  09:11 AM
                            [**2161-12-2**]  01:58 PM
                            [**2161-12-2**]  07:15 PM
                            [**2161-12-3**]  02:01 AM
                            [**2161-12-3**]  02:15 AM
                            [**2161-12-3**]  02:43 PM
                            [**2161-12-3**]  09:58 PM
                            [**2161-12-4**]  04:25 AM
   WBC
   18.1
   14.1
   11.1
   Hct
   23.9
   26.3
   25.0
   Plt
   [**Telephone/Fax (3) 6743**]
   Cr
   6.9
   6.8
   6.1
   6.0
   6.1
   5.9
   5.9
   TCO2
   24
   24
   25
   Glucose
   124
   76
   258
   144
   188
   114
   177
   Other labs: PT / PTT / INR:12.6/52.0/1.1, CK / CKMB /
   Troponin-T:887/6/0.04, ALT / AST:43/92, Alk Phos / T Bili:95/0.4,
   Amylase / Lipase:/18, Differential-Neuts:88.0 %, Band:5.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:294 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.8 g/dL, LDH:395 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   52 year old female with Type 1 DM, ESRD s/p failed transplant ([**2152**]),
   admitted with acute respiratory failure secondary to CHF versus
   pneumonia (?aspiration) in the setting of progressive renal failure.
    >Respiratory failure.  Likely multifactorial: ? renal failure with
   volume overloaded  with hx of depressed EF of 15% (BNP 20,000),
   aspiration event in an immunocomprimised host (on broad coverage) with
   neg BAL eval and neg viral panel.  Its possible that this is also an
   inflammatory lung condition, given the rapid resolution.  Dialysis
   initiated yesterday to help with volume status. Extubated yesterday
   now on RA.
   -          On levaquin to cover Moraxella in sputum per ID
   > Anemia: did not respond to a unit of PRBC- last transfused on [**11-30**].
   Hct now stable (increased likely due to negative fluid balance).  No
   evidence of hemolysis.
    -         Hct stable
   >ESRD s/p renal transplant.  Patient underwent renal transplant in
   [**2152**], however had had rising Cr over past several months, now with Cr
   5.5.  s/p one episode of HD, but also with good UOP to 80 IV lasix.
   -          Autodiuresing
 no acute indication for further HD
   -          On home dose of pred 5mg
   >  Type 1 DM.
   -          Lantus / SSI
   -          follow fingersticks
   > HTN
   -          Restarting home meds and titrating
   > Hypernatremia
   -          Encourage PO free water
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2161-11-28**] 02:22 PM
   18 Gauge - [**2161-11-28**] 02:23 PM
   Arterial Line - [**2161-11-28**] 04:20 PM
   20 Gauge - [**2161-12-2**] 06:51 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2161-12-04 08:13:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2161-12-3**] 10:34 AM
   - extubated in AM and spent most of the day on room air; put back on 2
   L overnight to rest
 DIALYSIS CATHETER - STOP [**2161-12-3**] 12:22 PM
   - autodiuresed and did not require any additional lasix
 Started insulin and PO diet
   Allergies:
   Percocet (Oral): Rash
   Last dose of Antibiotics:
   Piperacillin - [**2161-12-2**] 08:00 AM
   Levofloxacin - [**2161-12-2**] 05:53 PM
 q48 hr dosing
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2161-12-3**] 10:15 AM
   Metoprolol Succinate XL 200mg DAILY
   NIFEdipine CR 90 mg PO DAILY
   Other medications:
   PredniSONE 5 mg PO DAILY
   Sirolimus 8 mg PO DAILY
   Ranitidine 75 mg PO DAILY
   Albuterol MDI [**1-7**] PUFF IH Q4H:PRN
   Insulin SC   Sliding Scale & Fixed Dose
   Heparin 5000 UNIT SC BID
    Epoetin Alfa 4000 UNIT SC QMOWEFR
   Metoclopramide 5 mg IV Q6H
   Calcium Acetate 1334 mg TID W/MEALS
   Nephrocaps 1 CAP PO DAILY
   Acetaminophen 325-650 mg PO Q6H:PRN
   Pravastatin 20 mg PO DAILY
   Docusate Sodium 100 mg PO BID
   Senna 1 TAB PO BID:PRN
   Bisacodyl 10 mg PO/PR DAILY:PRN
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Respiratory: no respiratory complaints
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2161-12-4**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 93 (84 - 105) bpm
   BP: 178/93(125) {122/69(83) - 198/106(269)} mmHg
   RR: 21 (8 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.1 kg (admission): 52.1 kg
   Height: 62 Inch
    CVP: 13 (0 - 13)mmHg
   Total In:
                                                                  1,340 mL
                                                                    281 mL
   PO:
                                                                    100 mL
                                                                    200 mL
   TF:
                                                                    615 mL
   IVF:
                                                                    426 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  4,330 mL
                                                                  1,100 mL
   Urine:
                                                                  3,980 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,990 mL
                                                                   -819 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 287 (287 - 287) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 82
   PIP: 5 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Fixed)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   222 K/uL
   8.6 g/dL
   177 mg/dL
   5.9 mg/dL
   24 mEq/L
   3.8 mEq/L
   110 mg/dL
   107 mEq/L
   147 mEq/L
   25.0 %
   11.1 K/uL
        [image002.jpg] Blood glucose range 107-220, [**Last Name (un) **] 3.1 this am
                            [**2161-12-2**]  03:49 AM
                            [**2161-12-2**]  08:29 AM
                            [**2161-12-2**]  09:11 AM
                            [**2161-12-2**]  01:58 PM
                            [**2161-12-2**]  07:15 PM
                            [**2161-12-3**]  02:01 AM
                            [**2161-12-3**]  02:15 AM
                            [**2161-12-3**]  02:43 PM
                            [**2161-12-3**]  09:58 PM
                            [**2161-12-4**]  04:25 AM
   WBC
   18.1
   14.1
   11.1
   Hct
   23.9
   26.3
   25.0
   Plt
   [**Telephone/Fax (3) 6743**]
   Cr
   6.9
   6.8
   6.1
   6.0
   6.1
   5.9
   5.9
   TCO2
   24
   24
   25
   Glucose
   124
   76
   258
   144
   188
   114
   177
   Other labs: PT / PTT / INR:12.6/52.0/1.1, CK / CKMB /
   Troponin-T:887/6/0.04, ALT / AST:43/92, Alk Phos / T Bili:95/0.4,
   Amylase / Lipase:/18, Differential-Neuts:88.0 %, Band:5.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:294 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:2.8 g/dL, LDH:395 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   Ms.  [**Known lastname 6610**] is a 52 year old female with Type 1 DM, EF 20%, ESRD s/p
   failed transplant, admitted with respiratory failure secondary to ?
   aspiration pneumonitis versus steroid responsive pneumonia.
   1.  Respiratory failure.  Initially infiltrate, high vent support
   responding to steroids. Now infiltrate, fevers, moraxella. [**12-1**]
   started Zosyn/Levo.  CMV VL negative. Today [**12-2**] evidence of volume
   overload w/ pleural effusions. Antibiotics narrowed to Levofloxacin
   500mg q48hrs to complete a 10 day course to end [**12-7**]. Patient
   successfully extubated [**12-3**].
   Trend WBC, fevers
   Continue diuresis goal negative 1-2L today
   2. Hypertension. Patient previously with Hypotension in setting of
   sepis and sedation. Patient briefly on pressors, but has been off for
   greater than 72 hours. Patient at baseline is a hypertensive on Toprol
   200 mg and Nifedipine 90 daily.
   Place patient on home meds.
   3.  ESRD s/p renal transplant [**2152**]. Evidence graft slowly failing over
   past several months. Patient under consideration 2^nd transplant. Off
   Zemplar currently. Patient on HD for volume in setting of respiratory
   failure [**12-2**]. Patient with good urine output and is off HD currently.
   Appreciate Renal Recs
   UOP good with lasix, cont using lasix for goal neg 1-2 L  [**2161-12-4**]
   Continue EPO
   Continue Sirolimus, and Prednisone HOLDING Tacrolimus per renal
   Calcium acetate, nephrocaps
   Sirolimus level
 [**12-4**]
 per renal no change in dose currently
   4.  Type 1 DM.
   Patient with relatively good insulin control on lantus 8 units and HISS
 continue on current dosing
   Follow fingersticks
   5.  Nonischemic cardiomyopathy.  Patient with EF < 20 on most recent
   echo in [**4-14**].  Had episode of wide complex tachycardia overnight two
   nights ago.  Has mildly elevated troponin and CK.  Echo is unchanged.
   Daily EKGs
   6.  Anemia.  Patient has widely fluctuating Hct.  Most recently 38.3
   prior to admission [**7-14**].  MCV 82 with elevated RDW.  Poor response to
   blood transfusion yesterday, so will transfuse again.
   On Increased EPO dose per renal
   Transfuse to goal HCT >25
   7. Hypernatremia: Initially resolved when patient was able to get free
   water through her NG tube.
   Encourage free water PO
   Follow Na [**Hospital1 **]
   ICU Care
   Nutrition: PO diabetic diet
   Glycemic Control:  Comments: Insulin standing and sliding scale
   Lines:
   Multi Lumen - [**2161-11-28**] 02:22 PM
   18 Gauge - [**2161-11-28**] 02:23 PM
   Arterial Line - [**2161-11-28**] 04:20 PM
   20 Gauge - [**2161-12-2**] 06:51 AM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer: PPI
   VAP:  precautions, patient extubated [**12-3**]
   Comments:
   Communication: daughter, patient
   [**Name2 (NI) 66**] status: Full code
   Disposition:Transfer to floor